US06310076B1
N-(3-(Piperidin-1-yl)propyl)acetoacetamide
Diketene (2.40 mL, 31.1 mmol, 1.50 equiv) was added at 0° C. to a stirred solution of 1-(3-aminopropyl)piperidine (2.95 g, 20.7 mmol, 1.0 equiv, Bates, R. J.; Cymerman-Craig, J.; Moyie, M.; Yong, R. J. J. Chem. Soc. 1956, 388) in anhydrous THF (40 mL) under argon, and stirring was continued at room temperature for 1.5 hours. The mixture was concentrated to give 4.8 g (100%) of light brown oil, which was characterized spectroscopically and used for the next reaction without purification.

reactant | Diketene | 31.1 mmol, 2.40 mL, 1.50 equiv | C=C1CC(=O)O1 | C4H4O2
reactant | 1-(3-aminopropyl)piperidine | 20.7 mmol, 2.95 g, 1.0 equiv | NCCCN1CCCCC1 | C8H18N2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | N-(3-(Piperidin-1-yl)propyl)acetoacetamide | N1(CCCCC1)CCCNC(CC(=O)C)=O | C12H22N2O2
